US06316490B1
2-[2-(2-Chloro-4-hydroxyphenyl)thioethyl]-1-methylpyrrolidine (Method B):
2-(2-Chloroethyl)-1-methylpyrrolidine (2.85 g, 19.29 mmole), 2-chloro-4-hydroxythiophenol (3.1 g, 19.29 mmole), potassium carbonate (26.7 g, 192.9 mmole) and DMF (30 mL) were combined, yielding 3.2 g (11.77 mmole, 61%).

reactant | 2-(2-Chloroethyl)-1-methylpyrrolidine | 19.29 mmole, 2.85 g | ClCCC1N(CCC1)C | C7H14ClN
reactant | 2-chloro-4-hydroxythiophenol | 19.29 mmole, 3.1 g | ClC1=C(C=CC(=C1)O)S | C6H5ClOS
reactant | potassium carbonate | 192.9 mmole, 26.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[2-(2-Chloro-4-hydroxyphenyl)thioethyl]-1-methylpyrrolidine | ClC1=C(C=CC(=C1)O)SCCC1N(CCC1)C | C13H18ClNOS
